US07897624B2
Step d: 4-(2-Fluoro-4-iodophenylamino)-1-methyl-5-nitropyridin-2(1H)-one
4-(2-Fluoro-4-iodophenylamino)-5-nitropyridin-2(1H)-one (1.28 g, 3.41 mmol) was dissolved in dry DMF (20 mL) and cooled to 0° C. under an ice-bath. To the solution was added NaH (60% in oil) (168 mg, 4.2 mmol) portion-wise. The resulted mixture was stirred at 0° C. for 1 hour, followed by the addition of methyl iodide (260 uL, 4.17 mmol) drop-wise through a syringe. The solution was allowed to warm to room temperature and stirred for 16 hours. Water (20 mL) was added slowly and stirring was continued for 30 minutes. The resulted yellow precipitate was filtered, dried under vacuum at 40° C. for 5 hours, and used for the next reaction without further purification. (1.017 g, 77% yield)

reactant | 4-(2-Fluoro-4-iodophenylamino)-5-nitropyridin-2(1H)-one | 3.41 mmol, 1.28 g | FC1=C(C=CC(=C1)I)NC1=CC(NC=C1[N+](=O)[O-])=O | C11H7FIN3O3
reactant | NaH | 4.2 mmol, 168 mg | [H-].[Na+]
reactant | methyl iodide | 4.17 mmol, 260 uL | CI | CH3I
reactant | Water | 20 mL | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 4-(2-Fluoro-4-iodophenylamino)-1-methyl-5-nitropyridin-2(1H)-one | 77% yield | FC1=C(C=CC(=C1)I)NC1=CC(N(C=C1[N+](=O)[O-])C)=O | C12H9FIN3O3
